US05780483
Preparation of N-(2-hydroxy-4-fluorophenyl)-N'-phenyl urea
A mixture of 5-fluoro-2-nitrophenol (500 mg, 3.18 mmol) and tin (II) chloride (1.76 g, 9.2 mmol) in ethanol (10 mL) was heated at 80° C. under argon. After 30 min, the starting material had disappeared and the solution was allowed to cool down and then poured into ice. The pH was made slightly basic (pH 7-8), by addition of 5% aqueous sodium bicarbonate, before being extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4 and filtered. Evaporation of the solvent gave the title compound(335 mg, 83%). 1H NMR (CD3 OD/CDCl3): d 6.6 (m, 1H), 6.38 (dd, 1H, J=8.3 Hz and J=2.8 Hz), 6.29 (m, 1H).

reactant | 5-fluoro-2-nitrophenol | 3.18 mmol, 500 mg | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | tin (II) chloride | 9.2 mmol, 1.76 g | [Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(2-hydroxy-4-fluorophenyl)-N'-phenyl urea | 335 mg, 83% | OC1=C(C=CC(=C1)F)NC(=O)NC1=CC=CC=C1 | C13H11FN2O2
